US06953857B2
(1-Cyano-piperidin-4-ylmethyl)-carbamic acid tert-butyl ester
[1-(5-Trichloromethyl-[1,2,4]oxadiazol-3-yl)-piperidin-4-ylmethyl]-carbamic acid tert-butyl ester (500 mg, 1.25 mmol) and 30% aqueous trifluoro-acetic acid (5 ml) were stirred for 24 hours at room temperature. The mixture was evaporated and lyophilised. The product contains excess of trifluoro-acetic acid.

reactant | [1-(5-Trichloromethyl-[1,2,4]oxadiazol-3-yl)-piperidin-4-ylmethyl]-carbamic acid tert-butyl ester | 1.25 mmol, 500 mg | C(C)(C)(C)OC(NCC1CCN(CC1)C1=NOC(=N1)C(Cl)(Cl)Cl)=O | C14H21Cl3N4O3
reactant | trifluoro-acetic acid | 5 ml | FC(C(=O)O)(F)F | C2HF3O2
product | (1-Cyano-piperidin-4-ylmethyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCC1CCN(CC1)C#N)=O | C12H21N3O2
